US04734415
A mixture of 19.6 g of 4-fluoro-γ-oxobenzenebutanoic acid [prepared by following the procedure of W. Adcock and M. J. S. Dewar, J. Amer. Chem. Soc., 89, 2(1967)], 14.3 g of 1,4-dioxa-8-azaspiro[4,5]decane and 13.9 g of anhydrous K2CO3 in 75 ml of DMSO is heated at 100° C. for 18 hours and cooled. The reaction mixture is filtered and the residue is washed with DMSO. The filtrate and the washings are diluted with 300 ml of water and the pH of the solution is adjusted to 6. The solid is filtered, washed with water, and air-dried to yield 15.0 g of 4-(1,4-dioxa-8-azaspiro [4,5]-dec-8-yl)-γ-oxobenzenebutanoic acid as off-white powder, mp 130°-131° C.

reactant | 4-fluoro-γ-oxobenzenebutanoic acid | 19.6 g | FC1=CC=C(C=C1)C(CCC(=O)O)=O | C10H9FO3
reactant | 1,4-dioxa-8-azaspiro[4,5]decane | 14.3 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | K2CO3 | 13.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 75 ml | CS(=O)C | C2H6OS
product | 4-(1,4-dioxa-8-azaspiro [4,5]-dec-8-yl)-γ-oxobenzenebutanoic acid | 15.0 g | O1CCOC12CCN(CC2)C2=CC=C(C=C2)C(CCC(=O)O)=O | C17H21NO5
